US07078421B2
Nitro aniline (138.13 g) was mixed with 500 mL of concentrated HCl and stirred for several min. When all the aniline was dissolved, the solution was cooled down to room temperature and diluted with water (300 mL), and then a solution of NaNO2 (69 g) in 250 mL of water was dropwise added at 0° C. The solution became a clear and yellowish solution. The diazonium salt solution was added slowly to a solution of phenol (128.5 g) in water (800 mL) containing 80 g of NaOH at 0° C. When the addition was complete, the reaction mixture was stand for several hours, a black precipitate was formed and filtered. The solid was dissolved in ethyl acetate, washed with brine, dried over anhydrous Na2SO4. The solution was concentrated to give 133.5 g of nitroazophenol product as light yellow solid. The mother liquor was concentrated again to give another 65 g of the nitroazophenol product. 1H-NMR (400 MHz, CDCl3): δ 10.98 (s, 1H), 8.20–7.05 (m, 7H).

reactant | Nitro aniline | 138.13 g | [N+](=O)([O-])NC1=CC=CC=C1 | C6H6N2O2
reactant | HCl | 500 mL | Cl | ClH
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | NaNO2 | 69 g | N(=O)[O-].[Na+]
reactant | phenol | 128.5 g | C1(=CC=CC=C1)O | C6H6O
reactant | NaOH | 80 g | [OH-].[Na+]
solvent | water | 300 mL | O | H2O
solvent | water | 250 mL | O | H2O
solvent | water | 800 mL | O | H2O
product | nitroazophenol | 133.5 g | [N+](=O)([O-])C=1C(=C(C=CC1)O)N=NC1=C(C=CC=C1)O | C12H9N3O4
